US05446189
A solution of 0.73 g (1.02 mmol) of N-(2-methoxy-2-oxoethyl)-N-[3-[3-[4-(methylsulfinyl)phenoxy]propoxy]-5-(octadecyloxy)phenyl]glycine methyl ester and 0.68 ml (4.08 mmol) of 6N NaOH in 30 ml of methanol was stirred at reflux under argon for 4 hours. The methanol was removed at reduced pressure, the residue was acidified and the product was extracted with ethyl acetate. The dried extract was concentrated to a solid which was recrystallized from acetone-hexane to give 0.57 g (82% yield, mp 124°-126°) of N-(carboxymethyl)-N-[3-[3-[4-(methylsulfinyl)phenoxy]propoxy]-5-(octadecyloxy)phenyl glycine.

reactant | N-(2-methoxy-2-oxoethyl)-N-[3-[3-[4-(methylsulfinyl)phenoxy]propoxy]-5-(octadecyloxy)phenyl]glycine methyl ester | 1.02 mmol, 0.73 g | COC(CN(C1=CC(=CC(=C1)OCCCCCCCCCCCCCCCCCC)OCCCOC1=CC=C(C=C1)S(=O)C)CC(=O)OC)=O | C40H63NO8S
reactant | NaOH | 4.08 mmol, 6N, 0.68 ml | [OH-].[Na+]
solvent | methanol | 30 ml | CO | CH4O
product | 3-[3-[4-(methylsulfinyl)phenoxy]propoxy]-5-(octadecyloxy)phenyl glycine | CS(=O)C1=CC=C(OCCCOC=2C=C(C=C(C2)OCCCCCCCCCCCCCCCCCC)NCC(=O)O)C=C1 | C36H57NO6S
